US05459255
N-[N-(tert-Butyloxycarbonyl)-3-aminopropyl]benzylamine (47).
A solution of N-(3-aminopropyl)benzylamine (38 g, 231.71 mmoles) in dry tetrahydrofuran (300 mL) was cooled to 5° C. in an ice-alcohol bath. To this cold stirred solution 2-[[(tert-butyoxycarbonyl)oxy]imino]-2-phenylacetonitrile (BOC-ON) (56.58 g, 230 mmoles) in dry tetrahydrofuran (300 mL) was added slowly during a 6 hour period. After the addition of BOC-ON, the reaction mixture was stirred at room temperature under argon for an additional 6 hours. The reaction mixture was evaporated to dryness and the residue was dissolved in ether (750 mL). The ether extract was washed with 5% sodium hydroxide solution (4×100 mL), dried over anhydrous sodium sulfate, and concentrated to dryness. The residue was purified by flash column using a chromatography over a silica dichloromethane→methanol gradient. The pure fractions were pooled together and evaporated to give 49.5 g (81%) of product as oil: 1H nmr (deuteriochloroform): δ1.42 (s, 9H, t-Boc), 1.65 (m, 2H, CH2CH2CH2), 2.70 (t, 2H, CH2NHCH2), 3.20 (m, 2H, BocNHCH2), 3.78 (s, 2H, ArCH2), 5.32 (br s, 1H, BocNH), 7.30 (m, 5H, ArH).

reactant | N-(3-aminopropyl)benzylamine | 231.71 mmoles, 38 g | NCCCNCC1=CC=CC=C1 | C10H16N2
reactant | 2-[[(tert-butyoxycarbonyl)oxy]imino]-2-phenylacetonitrile | 230 mmoles, 56.58 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | N-[N-(tert-Butyloxycarbonyl)-3-aminopropyl]benzylamine | 49.5 g, 81% | C(C)(C)(C)OC(=O)NCCCNCC1=CC=CC=C1 | C15H24N2O2
